Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old gentleman with history of 
neurodegererative condition and gait disorder presenting with 
recent increase in falls.  As per his daughter, she suspects he 
has been falling more at home over the past few weeks (although 
she has not been home to witness these falls.)  As per his 
daughter he has fallen 7 times at home since waking up this 
morning.  He has right leg pain, but no other pain on 
examination.  He denies pain or any toehr symptoms. Other than 
falls, he has no new symptoms that his daughter has noticed.  He 
denies fever, chills, shortness of breath, cough, difficulty 
urinating, dysuria.  Patient is supposed to use a walker at 
home, but often uses his hand to steady himself.   
.  
Initial VS in the ED: 99.7 85 118/72 20 100% on RA. Patient has 
found to have full ROM of RLE without tenderness or deformity.  
He had an infectious work-up - no pneumonia on CXR, and small 
leuk/17 WBC on UA.  He had right hip films that showed no acute 
fracture.  He had a CT of his head and c-spine showing no 
fractures or acute intracranial process. EKG showed NSR at 70 
BPM with diffuse TWF. Patient was given cipro 400mg IV x1. 
.
Neurology saw the patient in the emergency department and felt 
that he neurodegenerative condition was worsening over time as 
they would expect and UTI was contributing to his frequent 
falls.  They recommended treating teh UTI and evaluating for 
possible rehab placement.  They suggested his outpatient 
neurologist may consider sinemet as an outpatient, but this does 
not need to be done urgently.  VS prior to transfer:  98.7 100% 
76 ___.
.  
On the floor, patient has no complaints and denies pain, but 
feels slightly uncomfortable in bed and is trying to get up. 
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthr myalgias.  
 
Past Medical History:
Neurodegenerative disorder (cortical basal degeneration along 
with symptoms of progressive supranuclear palsy: this 
combination of disorders is referred to as tauopathy)
Dementia
Cataract
Eye globe replacement
Osteoarthritis
Elevated PSA (as per daughter he may have had prostate bx, but 
she thinks it was negative)
 
Social History:
___
Family History:
On family history, his father lived until about ___ and passed 
away from unclear causes.  He has a number of siblings and they 
are unsure about their health issues.  His mother passed away 
from unclear medical causes.

 
Physical Exam:
On Admission:
Vitals: T: 98.2 BP: 118/70 P: 72 R: 16 O2: 100% on RA  
General: Alert, oriented to self and "hospital", but ___, does 
not know year
HEENT: Right eye prosthetic, left eye EOMI and PRRL, oropharynx 
clear, moist mucus membranes
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, 
Ext: Warm, well perfused, 2+ pulses, no edema. Right knee with 
slight tenderness at medial aspect of patella, no obvious 
deformity, full ROM, no crepitus, no swelling, no hematoma, 
ecchymosis
NEURO: A&Ox1, speach not fluent, No right eye, but CN otherwise 
intact, ___ strength upper and lower extremity, sensation intact 
bilaterally  

On discharge:
General: Alert, oriented to self and hospital
HEENT: Right eye prosthetic, oropharynx clear, moist mucus 
membranes
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, 
Ext: Warm, well perfused, 2+ pulses, no edema. Right and left 
knee appear enlarged, full ROM, no obvious deformtiy
NEURO: A&Ox1, stuttering speech, No right eye, but CN otherwise 
intact, gait observed with walker, no heel strike, small steps, 
appears very unsteady even with assistance of walker

 
Pertinent Results:
Admission labs:
___ 01:40PM BLOOD WBC-4.9 RBC-4.40* Hgb-13.0* Hct-40.6 
MCV-92 MCH-29.6 MCHC-32.1 RDW-11.7 Plt ___
___ 01:40PM BLOOD Neuts-56.1 ___ Monos-7.2 Eos-5.8* 
Baso-0.4
___ 01:40PM BLOOD Glucose-84 UreaN-14 Creat-0.9 Na-141 
K-4.7 Cl-102 HCO3-28 AnGap-16
___ 06:25AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.0
___ 06:53PM BLOOD Lactate-1.2

Images:  
Right Knee x-ray:
RIGHT KNEE, THREE VIEWS: No acute fracture or dislocation is 
identified.  There are moderate to severe tricompartmental 
degenerative changes, worst in the lateral and patellofemoral 
compartments with severe joint space narrowing, osteophyte 
formation, subchondral irregularity. There is a moderate-sized 
joint effusion. No suspicious lytic or sclerotic osseous 
abnormalities are seen. 
IMPRESSION: No acute fracture or dislocation. Moderate to severe 

osteoarthritis. 
.
CT C-Spine:
FINDINGS: There is no evidence of fracture or subluxation in the 
cervical spine. The prevertebral and paravertebral soft tissues 
are within normal limits. There are mild multilevel degenerative 
changes including mild disc bulging at C5-6 and C6-7 resulting 
in mild central canal narrowing. No critical canal or neural 
foraminal narrowing is identified. Mastoid air cells are well 
aerated. Posterior fossa content is within normal limits. Deep 
cervical soft tissues are unremarkable. Lung apices are clear, 
with minimal emphysema.  
IMPRESSION: No fracture or subluxation. 
.
CT Head Without Contrast:
FINDINGS: There is no intracranial hemorrhage, mass effect, 
edema, or shift of normally midline structures. The gray-white 
matter differentiation is preserved. Ventricles and sulci are 
prominent, consistent with age-related involution. There are 
scattered areas of subcortical and periventricular white matter 
hypoattenuation, consistent with small vessel ischemic disease.  
Suprasellar and basilar cisterns are patent. 
Paranasal sinuses and mastoid air cells are well aerated. There 
is no skull base fracture. Trace vascular calcification is seen 
in the cavernous carotid artery. Right orbital prosthesis is 
seen. The left globe appears within normal limits. 
IMPRESSION: 
1. No acute intracranial process or evidence of fracture. 
2. Age-related involution and small vessel ischemic disease. 
.
Hip X-Ray:
No acute fracture or dislocation is identified. Hips and 
sacroiliac joints are not diastatic.  Heterotopic ossification 
is seen medial to the lesser trochanter on the left.  Mild joint 
space narrowing is seen involving both hips, with mild 
degenerative changes in the imaged lumbar spine. No suspicious 
lytic or sclerotic osseous 
abnormalities are present. 
IMPRESSION: No acute fracture or dislocation. 
.
Chest PA/Lateral:
FINDINGS: Frontal and lateral views of the chest demonstrate 
normal 
cardiomediastinal silhouette. The thoracic aorta is mildly 
unfolded. The lungs are clear. There is no pneumothorax, 
vascular congestion, or pleural effusion. 
IMPRESSION: No acute cardiopulmonary process. Specifically, no 
pneumonia.

Urine culture: No growth. 
___ Blood culture: No growth to date x2 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old gentleman with history of 
dementia and neurodegenerative disorder presenting with 
increased frequency of falls at home.

ACTIVE PROBLEMS:
1. Frequent Falls: Patient has had increased difficulty walking 
and is falling frequently at home.  Neurology was consulted and 
felt his falls were secondary to worsening of patient's 
neurodegenerative disorder as it is expected to progress over 
time. Neurology did not recommend any changes to medications, 
but did recommend patient follow-up with his outpatient 
neurologist to consider sinemet or other medical management. 
There was initial concern he may have a urinary tract infection, 
so there was concern his falls may also be exacerbated by the 
infection.  In the ED he had a CT of his head an c-spine, which 
did not show acute intracranial process or fracture. He had 
plain films of his hip and knee that did not show any fracture. 
Knee films showed osteoarthritis. 

___ evaluated patient and recommended rehab placement for 
functional mobility training and balance training.  This was 
communicated to his primary neurologist.  Patient has planned 
follow-up with his neurologist in one month. 

2.  Neurodegenerative disorder:  Patient thought to have 
neurodegenerative disorders (CBD and PSP), which as per notes 
tends to be a progressive disorder minimally responsive to 
medications.  Neurology saw patient in ED and did not recommend 
any acute intervention at this time, but that patient follow-up 
with outpatient neurologist for further management. 

3.  UTI: In ED patient had urine specimen with small leuk and 17 
WBC, and few bacteria (clean catch with no epis).  Patient 
received cipro in ED and it was continued on the floor.  Urine 
culture showed now growth.  Antibiotics were stopped and patient 
remained symptom free.  

CHRONIC/INACTIVE ISSUES:  
1.  Hyperlipidemia: Not taking any medications. Patient can 
restart aspirin and statin as per PCP on outpatient basis.
 
TRANSITIONAL ISSUES:
1. Follow-up planned with primary neurologist. Patient has been 
tried on sinemet without improvement in the past, could consider 
trying in the future. 
2. Code status: Patient full code during hospitalization. 
3. Hyperlipidemia: Consider restarting statin and aspirin on 
outpatient basis if it is consistent with patient's wishes.
4. Blood cultures pending at discharge - will be followed up by 
primary team. 
 
Medications on Admission:
None
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Falls, gait instability, cortical basal degeneration, 
progressive supranuclear palsy
SECONDARY: Right knee osteoarthritis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) - patient requires significant assistance of staff 
member and walker.

 
Discharge Instructions:
It was a pleasure to participate in your care Mr. ___.  
You were admitted to the hospital after falling at home.  You 
were seen by the neurologists, who felt that this was likely 
from progression of your neurologic disease.  The physical 
therapist evaluated you and felt you should go to rehab to gain 
strenth and improve walking.  

Please make the following changes to your medications:
1. START tylenol ___ mg three times per day
2. START colace 100 mg twice a day
3. START senna 1 tab twice a day as needed for constipation

Please see below for your follow-up appointments. 
 
Followup Instructions:
___